US08022062B2
4-(3,3-Dimethyl-1-methylene-butyl)-benzonitrile:
Add p-toluenesulfonic acid monohydrate (308 mg, 1-62 mmol) to a solution of 4-(1-hydroxy-1,3,3-trimethyl-butyl)-benzonitrile (352 mg, 1.62 mmol) in toluene (10 mL). Heat the solution to 100° C. for 30 min. Cool the reaction mixture to room temperature, dilute the reaction mixture with EtOAc and wash the organic phase with saturated aqueous NaHCO3. Dry the organic phase over MgSO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (98:2, 19:1) to give the desired intermediate as an oil (200 mg, 62%).

reactant | p-toluenesulfonic acid monohydrate | 1-62 mmol, 308 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-(1-hydroxy-1,3,3-trimethyl-butyl)-benzonitrile | 1.62 mmol, 352 mg | OC(CC(C)(C)C)(C)C1=CC=C(C#N)C=C1 | C14H19NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3,3-Dimethyl-1-methylene-butyl)-benzonitrile | 200 mg, 62% | CC(CC(=C)C1=CC=C(C#N)C=C1)(C)C | C14H17N
